US04870189
1-Benzhydrylamino-3-chloropropane
A mixture of 0.1 mole of benzhydrylamine, 39.3 g (0.25 moles) of 1-bromo-3-chloropropane, 13.8 g (0.1 mole) of potassium carbonate, 20.0 ml of dimethylformamide and 20.0 ml of water were heated at 75° C. for 2 hr. The organic layer was separated and concentrated on a rotary high vacuum evaporator to give 26 g of title compound of 85-90% purity of title compound containing about 5% each of benzhydrylamine and 1-benzhydrylazetidine.

reactant | benzhydrylamine | 0.1 mole | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | 1-bromo-3-chloropropane | 0.25 moles, 39.3 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20.0 ml | CN(C=O)C | C3H7NO
solvent | water | 20.0 ml | O | H2O
product | 1-Benzhydrylamino-3-chloropropane | 26 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCl | C16H18ClN
